US04539154
27.5 g of ethyl 6-acetoxy-4-methyl-2,4-hexadienoate, 20 g of sodium carbonate and 2 ml of triethanolamine were heated to reflux for 3 hours in 250 ml of ethanol. After the addition of ethyl acetate, the organic phase was washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated. Distillation at 110° C./0.4 mmHg gave 15.7 g (71%) of ethyl 6-hydroxy-4-methyl-2,4-hexadienoate.

reactant | ethyl 6-acetoxy-4-methyl-2,4-hexadienoate | 27.5 g | C(C)(=O)OCC=C(C=CC(=O)OCC)C | C11H16O4
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethanolamine | 2 ml | N(CCO)(CCO)CCO | C6H15NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 6-hydroxy-4-methyl-2,4-hexadienoate | 15.7 g, 71% | OCC=C(C=CC(=O)OCC)C | C9H14O3
